US09062015B2
4-(1-Hydroxypent-4-enyl)-2,2-dimethyloxazolidine-3-carboxylic acid tert-butyl ester
5 g (21.81 mmol) of (S)-4-formyl-2,2-dimethyloxazolidine-3-carboxylic acid tert-butyl ester are dissolved in 33 ml of THF, placed under argon and cooled to −78° C. 43.62 ml (21.81 mmol) of a 0.5 M 3-butenylmagnesium bromide solution in THF are added dropwise. The mixture is stirred further at room temperature overnight. After TLC check, about 90 ml of a saturated NH4Cl solution are added to the mixture with cooling, the mixture is stirred further overnight and diluted with about 50 ml of water. The phases are separated, and the aqueous phase is extracted a further twice with EA. The combined organic phases are dried over sodium sulfate, filtered and evaporated. The oily residue is subjected to flash chromatography on silica gel.

reactant | (S)-4-formyl-2,2-dimethyloxazolidine-3-carboxylic acid tert-butyl ester | 21.81 mmol, 5 g | C(C)(C)(C)OC(=O)N1C(OC[C@H]1C=O)(C)C | C11H19NO4
reactant | 3-butenylmagnesium bromide | 0.5 M | C(CC=C)[Mg]Br
reactant | NH4Cl | about 90 ml | [NH4+].[Cl-]
solvent | THF | 33 ml | C1CCOC1 | C4H8O
solvent | water | about 50 ml | O | H2O
product | 4-(1-Hydroxypent-4-enyl)-2,2-dimethyloxazolidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(OCC1C(CCC=C)O)(C)C | C15H27NO4
